US05136049
1.3 2,5-Bis-(2-pyrrylmethylidene)-2,5-dihydrothiophene-1,1-dioxide (1c) (C14H12N2O2S, MW=272)
About 20 mmol (2.36 g) of 3-sulfolene (MW=118) and 42 mmol (4 g) of pyrrole-2-aldehyde (MW=95) were dissolved in an alkaline solution of 1.5 g of NaOH and 1.9 g of NaOCH3 in 70 ml of methanol. The mixture was stirred at room temperature for 5 days. The black-brown reaction mixture was concentrated.

reactant | 3-sulfolene | 20 mmol, 2.36 g | S1(=O)(=O)CC=CC1 | C4H6O2S
reactant | pyrrole-2-aldehyde | 42 mmol, 4 g | N1C(=CC=C1)C=O | C5H5NO
reactant | NaOCH3 | 1.9 g | O([Na])C
solvent | NaOH | 1.5 g | [OH-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 2,5-Bis-(2-pyrrylmethylidene)-2,5-dihydrothiophene-1,1-dioxide | N1C(=CC=C1)C=C1S(C(C=C1)=CC=1NC=CC1)(=O)=O | C14H12N2O2S
